US07285557B2
3-(4-{2-[4-chloro(methyl)anilino]ethoxy}-3-methoxyphenyl)-6-(4-chlorophenyl)thieno[3,2-d]pyrimidin-4(3H)-one
To a solution of 6-(4-chlorophenyl)-3-(4-hydroxy-3-methoxyphenyl)thieno[3,2-d]pyrimidin-4(3H)-one (96 mg, 0.25 mmol, the preparation of which can be found in the section detailing the preparation of Example K1) in DMF was added 2-[4-chloro(methyl)anilino]ethyl p-toluenesulfonate (170 mg, 0.50 mmol) and cesium carbonate (0.24 g, 0.75 mmol) and the mixture was stirred with heating at 75° C. for 12 h. The reaction was allowed to cool and 10 mL solution of 20% water/ethanol was added. The resulting precipitate was filtered and dried in a vacuum oven to give the title compound (136 mg, 98%). 1H NMR (DMSO-D6) δ 3.00 (3H, s), 3.77 (5H, m), 4.21 (2H, m), 6.81 (2H, d, J=9.0 Hz), 7.02-7.20 (5H, m), 7.58 (2H, d, J=8.6 Hz), 7.95 (3H, m), 8.39 (1H, s). Calcd. for C28H23Cl2N3O3S×3HCl: C, 50.81; H, 3.96; N; 6.35. Found: C, 50.91; H, 3.95; N, 6.23.

reactant | 6-(4-chlorophenyl)-3-(4-hydroxy-3-methoxyphenyl)thieno[3,2-d]pyrimidin-4(3H)-one | ClC1=CC=C(C=C1)C1=CC=2N=CN(C(C2S1)=O)C1=CC(=C(C=C1)O)OC | C19H13ClN2O3S
reactant | 2-[4-chloro(methyl)anilino]ethyl p-toluenesulfonate | 0.50 mmol, 170 mg | C1(=CC=C(C=C1)S(=O)(=O)OCCN(C1=CC=C(C=C1)Cl)C)C | C16H18ClNO3S
reactant | cesium carbonate | 0.75 mmol, 0.24 g | C([O-])([O-])=O.[Cs+].[Cs+]
reactant | water ethanol | O.C(C)O
solvent | DMF | CN(C)C=O | C3H7NO
product | 3-(4-{2-[4-chloro(methyl)anilino]ethoxy}-3-methoxyphenyl)-6-(4-chlorophenyl)thieno[3,2-d]pyrimidin-4(3H)-one | 136 mg, 98% | ClC1=CC=C(N(CCOC2=C(C=C(C=C2)N2C=NC3=C(C2=O)SC(=C3)C3=CC=C(C=C3)Cl)OC)C)C=C1 | C28H23Cl2N3O3S
